US06777432B1
[5-(4-fluoro-benzoylamino)-pyridin-2-yloxy]-acetic acid methyl ester
To a solution of (5-amino-pyridin-2-yloxy)-acetic acid methyl ester (0.16 g, 0.88 mmol) in dichloromethane (5 mL) was added 4-fluorobenzoyl chloride (0.11 mL, 0.97 mmol) and N,N-diisopropylethylamine (0.33 mL, 1.9 mmol). After 24 h the reaction was poured into ethyl acetate, washed with water, and dried over sodium sulfate. Removal of the solvent gave a white solid that was purified by trituation using ethyl acetate/hexanes to give the titled product 0.18 g (67%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.30 (s,1H); 8.40 (m, 1H); 8.03 (m, 3H); 7.35 (m, 2H); 6.92 (m, 1H); 4.87 (m, 2H); 3.64 (m, 3H).

reactant | (5-amino-pyridin-2-yloxy)-acetic acid methyl ester | 0.88 mmol, 0.16 g | COC(COC1=NC=C(C=C1)N)=O | C8H10N2O3
reactant | 4-fluorobenzoyl chloride | 0.97 mmol, 0.11 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | N,N-diisopropylethylamine | 1.9 mmol, 0.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [5-(4-fluoro-benzoylamino)-pyridin-2-yloxy]-acetic acid methyl ester | 0.18 g, 67% | COC(COC1=NC=C(C=C1)NC(C1=CC=C(C=C1)F)=O)=O | C15H13FN2O4
